US07320974B2
(R)-4-((2R,4R,6R)-4-Hydroxy-2-methoxy-6-(pent-4-enyl)-tetrahydro-2H-pyran-2-yl)-3-(4-methoxybenzyl)thiazolidin-2-one
Application of the method shown in Example 13, with the modification that (R)-4-((2R,4R,6R)-2,4-dihydroxy-6-(pent-4-enyl)-tetrahydro-2H-pyran-2-yl)-3-(4-methoxybenzyl)thiazolidin-2-one was substituted for (R)-4-((2R,4S,6R)-2,4-dihydroxy-6-(pent-4-enyl)-tetrahydro-2H-pyran-2-yl)-3-(4-methoxybenzyl)thiazolidin-2-one, afforded the title compound.

reactant | (R)-4-((2R,4R,6R)-2,4-dihydroxy-6-(pent-4-enyl)-tetrahydro-2H-pyran-2-yl)-3-(4-methoxybenzyl)thiazolidin-2-one | O[C@]1(O[C@@H](C[C@H](C1)O)CCCC=C)[C@H]1N(C(SC1)=O)CC1=CC=C(C=C1)OC | C21H29NO5S
reactant | (R)-4-((2R,4S,6R)-2,4-dihydroxy-6-(pent-4-enyl)-tetrahydro-2H-pyran-2-yl)-3-(4-methoxybenzyl)thiazolidin-2-one | O[C@]1(O[C@@H](C[C@@H](C1)O)CCCC=C)[C@H]1N(C(SC1)=O)CC1=CC=C(C=C1)OC | C21H29NO5S
product | (R)-4-((2R,4R,6R)-4-Hydroxy-2-methoxy-6-(pent-4-enyl)-tetrahydro-2H-pyran-2-yl)-3-(4-methoxybenzyl)thiazolidin-2-one | O[C@H]1C[C@](O[C@@H](C1)CCCC=C)(OC)[C@H]1N(C(SC1)=O)CC1=CC=C(C=C1)OC | C22H31NO5S
